US07807672B2
To a solution of 2-isopropyl-[1,4]benzoquinone 4-oxime (1.1 g, 6.7 mmol) in methanol was added catalytic amount of Ra/Ni complex. The reaction was stirred under 50 psi H2 atmosphere for 5 hrs and filtered through celite. The filtrate was concentrated to give 4-amino-2-isopropyl-phenol (762 mg, 76%)

reactant | 2-isopropyl-[1,4]benzoquinone 4-oxime | 6.7 mmol, 1.1 g | C(C)(C)C=1C(C=CC(C1)=NO)=O | C9H11NO2
solvent | methanol | CO | CH4O
product | 4-amino-2-isopropyl-phenol | 762 mg, 76% | NC1=CC(=C(C=C1)O)C(C)C | C9H13NO
